US07678802B2
2-(4-Ethoxy-quinazolin-2-yl)-phenol.
2-(4-Chloro-quinazolin-2-yl)-phenol (50 mg, 0.196 mmol) was placed in a microwave tube charged with a stir bar and dissolved 0.5 ml dry dichloromethane, followed by the addition of 2 ml dry ethanol. Tube was sealed with a cap and heated at 160 to 200° C. for one hour in CEM microwave. Solvent was removed under reduced pressure, reconstituted organic in DMSO and purified by Gilson HPLC. The desired compound was concentrated to a white solid as the TFA salt. LC/MS (10-99%) M/Z 267.2, retention time 2.57 minutes.

reactant | 2-(4-Chloro-quinazolin-2-yl)-phenol | 0.196 mmol, 50 mg | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C14H9ClN2O
reactant | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(4-Ethoxy-quinazolin-2-yl)-phenol | C(C)OC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C16H14N2O2
